US05990156
(4R,5R,6R)-6[(2-Biphenyl-4-yl-ethyl)propylcarbamoyl]-4-hydroxy-5-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4H-pyran-2-carboxylic acid
To a solution of (4R,5R,6R)-6-[(2-biphenyl-4-yl-ethyl)propylcarbamoyl]-4-(tertbutyldiphenylsilanyloxy)-5-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4-H-pyran-2-carboxylic acid methyl ester (1.03 g) in tetrahydrofuran (5.5 ml) was added a solution of tetra-n-butyl ammonium fluoride in tetrahydrofuran (1.45 ml of a 1M solution). The orange solution was stirred at room temperature for 4 hours before the solvent was removed in vacuo to give an orange gum. This was dissolved in ethyl acetate (50 ml) and washed with water (2×40ml). The organic phase was dried over anhydrous magnesium sulphate and the solvent was removed in vacuo and the residue was chromatographed over silica (Merck 7734, 65 g) and dichlormethane/methanol (95:5 v/v) as the eluant. The required fractions were combined and the solvent removed in vacuo to give the title compound as a white foam (0.64 g). 1H NMR (250 MHz, CDCl3 rotamers) 7.63-7.24 (9H, m), 6.96+6.92 (1H, 2×d, J=8 Hz), 6.13+6.06 (1H, 2×d, J=4 Hz), 5.16+4.86 (1H, 2×d, J=7, 5 Hz), 4.72+4.58 (1H, 2×m), 4.3 (1H, m), 3.82+3.79 (3H, 2×s), 3.78-3.23 (4H, m), 3.02+2.87 (2H, 2×t, J=8 Hz), 2.90+2.78 (2H, 2×broad s), 1.82-1.50(2H, m), 0.96+0.92 (3H, 2×t, J=8 Hz).

reactant | (4R,5R,6R)-6-[(2-biphenyl-4-yl-ethyl)propylcarbamoyl]-4-(tertbutyldiphenylsilanyloxy)-5-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4-H-pyran-2-carboxylic acid methyl ester | 1.03 g | COC(=O)C=1O[C@H]([C@H]([C@@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(C(F)(F)F)=O)C(N(CCC)CCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C43H47F3N2O6Si
reactant | tetra-n-butyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (4R,5R,6R)-6[(2-Biphenyl-4-yl-ethyl)propylcarbamoyl]-4-hydroxy-5-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4H-pyran-2-carboxylic acid | 0.64 g | C1(=CC=C(C=C1)CCN(C(=O)[C@H]1[C@@H]([C@@H](C=C(O1)C(=O)O)O)NC(C(F)(F)F)=O)CCC)C1=CC=CC=C1 | C26H27F3N2O6
